US07858623B2
5-(7-methoxy-quinolin-4-yloxy)pyridin-2-amine (549 mg, 2.05 mmol) and 1-methyl-3-oxo-2-phenyl-5-(pyrrolidin-1-ylmethyl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid (696 mg, 2.31 mmol) were suspended in dichlormethane (10 ml) and N-ethyl-N-isopropylpropan-2-amine (0.70 ml, 4.0 mmol), DMF (0.5 ml) and more dichlormethane (5 ml) were added. Finally, HATU (1.004 g, 2.641 mmol) was added, and the reaction was stirred under nitrogen at room temperature. After stirring for 2.5 weeks, the reaction was filtered and the solid was washed with DCM and MeOH. The filtrate was concentrated and purified on silica gel (˜3 inches, dichlormethane, MeOH, 2 N ammonia in MeOH) to give the desired N-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-yl)-1-methyl-3-oxo-2-phenyl-5-(pyrrolidin-1-ylmethyl)-2,3-dihydro-1H-pyrazole-4-carboxamide (90.6 mg, 0.165 mmol, 8%). MS (ESI pos. ion) m/z: 551 (MH+). Calc'd exact mass for C31H30N6O4: 550. 1H NMR (400 MHz, CDCl3): 11.44 (s, 1H), 8.61 (d, J=6.0 Hz, 1H), 8.38 (d, J=9.2 Hz, 1H), 8.30-8.21 (m, 2H), 7.62-7.37 (m, 7H), 7.24 (d, J=8.0 Hz, 1H), 6.43 (d, J=6.4 Hz, 1H), 4.35 (s, 2H), 3.98 (s, 3H), 3.57 (s, 3H), 2.73 (s, 4H), 1.84 (s, 4H).

reactant | 5-(7-methoxy-quinolin-4-yloxy)pyridin-2-amine | 2.05 mmol, 549 mg | COC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)N | C15H13N3O2
reactant | 1-methyl-3-oxo-2-phenyl-5-(pyrrolidin-1-ylmethyl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 2.31 mmol, 696 mg | CN1N(C(C(=C1CN1CCCC1)C(=O)O)=O)C1=CC=CC=C1 | C16H19N3O3
reactant | N-ethyl-N-isopropylpropan-2-amine | 4.0 mmol, 0.70 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.641 mmol, 1.004 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichlormethane | 10 ml | ClCCl | CH2Cl2
solvent | dichlormethane | 5 ml | ClCCl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | N-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-yl)-1-methyl-3-oxo-2-phenyl-5-(pyrrolidin-1-ylmethyl)-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.165 mmol, 90.6 mg, 8% | COC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1CN1CCCC1)C)C1=CC=CC=C1)=O | C31H30N6O4
